US06168839A
Preparation of 3-(trans-4-propylcyclohexyl)acrylonitrile (Compound No. 12)
To 30 ml of N-methylpyrrolidone was dissolved 3 g of 2-(trans-4-propylcyclohexyl)ethenyl bromide, 2 g of copper cyanide was added thereto, and then stirred under reflux by heating for 7 hours. A solution of ferric chloride in 6N hydrochloric acid was added to the reaction liquid, and extracted with toluene. The organic layer thus obtained was washed with water, dried, and then concentrated under a reduced pressure to obtain a brown oily product. This product was isolated and purified by using silica gel column chromatography to obtain 1.5 g of an oily product. As a result of various instrumental analysises, the product was confirmed to be the subject compound.

reactant | N-methylpyrrolidone | 30 ml | CN1C(CCC1)=O | C5H9NO
reactant | 2-(trans-4-propylcyclohexyl)ethenyl bromide | 3 g | C(CC)[C@@H]1CC[C@H](CC1)C=CBr | C11H19Br
reactant | copper cyanide | 2 g | [Cu](C#N)C#N
solvent | hydrochloric acid | 6N | Cl | ClH
product | 3-(trans-4-propylcyclohexyl)acrylonitrile | 1.5 g | C(CC)[C@@H]1CC[C@H](CC1)C=CC#N | C12H19N
